US08106064B2
3-(7-Hydroxy-5,5-dimethyl-2,4-dioxo-1,2,3,4,5,7-hexahydro-furo[3,4-d]pyrimidin-7-yl)-5-methyl-benzonitrile (177):
A solution of 3-(7-Hydroxy-2,4-dimethoxy-5,5-dimethyl-5,7-dihydro-furo[3,4-d]pyrimidin-7-yl)-5-methyl-benzonitrile (0.027 g, 0.080 mmol) in acetyl bromide (2.0 mL) was heated at 60° C. for 3 h. Reaction mixture was concentrated and purified by reverse phase HPLC (Phenomenex Synergi® column, 5 to 100% acetonitrile/H2O) to give a desired product (0.0063 g, 25%). 1H NMR (300 MHz, CD3OD): δ 7.76 (s, 1H), 7.70 (s, 1H), 7.51 (s, 1H), 2.38 (s, 1H), 1.60 (s, 3H), 1.59 (s, 3H). Mass spectrum: 314.0 (M+H)+.

reactant | 3-(7-Hydroxy-2,4-dimethoxy-5,5-dimethyl-5,7-dihydro-furo[3,4-d]pyrimidin-7-yl)-5-methyl-benzonitrile | 0.080 mmol, 0.027 g | OC1(OC(C2=C1N=C(N=C2OC)OC)(C)C)C=2C=C(C#N)C=C(C2)C | C18H19N3O4
solvent | acetyl bromide | 2.0 mL | C(C)(=O)Br | C2H3BrO
product | 3-(7-Hydroxy-5,5-dimethyl-2,4-dioxo-1,2,3,4,5,7-hexahydro-furo[3,4-d]pyrimidin-7-yl)-5-methyl-benzonitrile | 0.0063 g, 25% | OC1(OC(C2=C1NC(NC2=O)=O)(C)C)C=2C=C(C#N)C=C(C2)C | C16H15N3O4
